.title kicad schematic

* u38 net-_u20-pad3_ net-_u15-pad3_ net-_u38-pad3_ d_and
* u41 net-_u16-pad3_ net-_u41-pad2_ d_buffer
* u23 net-_u18-pad3_ net-_u23-pad2_ d_inverter
* u37 net-_u19-pad3_ net-_u17-pad2_ net-_u37-pad3_ d_and
* u51 net-_u36-pad3_ net-_u37-pad3_ net-_u51-pad3_ d_and
* u45 net-_u14-pad3_ net-_u23-pad2_ net-_u45-pad3_ d_and
* u36 net-_u18-pad3_ net-_u15-pad3_ net-_u36-pad3_ d_and
* u52 net-_u35-pad3_ net-_u19-pad3_ net-_u52-pad3_ d_and
* u35 net-_u20-pad3_ net-_u18-pad3_ net-_u35-pad3_ d_and
* u24 net-_u16-pad3_ net-_u24-pad2_ d_inverter
* u42 net-_u19-pad3_ net-_u17-pad2_ net-_u42-pad3_ d_and
* u39 net-_u15-pad3_ net-_u19-pad3_ net-_u39-pad3_ d_and
* u26 net-_u17-pad2_ net-_u26-pad2_ d_inverter
* u25 net-_u20-pad3_ net-_u25-pad2_ d_inverter
* u47 net-_u19-pad3_ net-_u25-pad2_ net-_u47-pad3_ d_and
* u43 net-_u43-pad1_ e1 dac_bridge_1
* u21 e1 plot_v1
* u54 net-_u47-pad3_ net-_u26-pad2_ net-_u43-pad1_ d_xor
* u46 net-_u15-pad3_ net-_u24-pad2_ net-_u46-pad3_ d_and
* u53 net-_u39-pad3_ net-_u17-pad2_ net-_u53-pad3_ d_and
* u49 net-_u30-pad3_ net-_u31-pad3_ net-_u49-pad3_ d_and
* u48 net-_u29-pad3_ net-_u18-pad3_ net-_u48-pad3_ d_and
* u50 net-_u32-pad3_ net-_u33-pad3_ net-_u50-pad3_ d_and
* u34 net-_u16-pad3_ net-_u18-pad3_ net-_u34-pad3_ d_and
* u40 net-_u18-pad3_ net-_u40-pad2_ d_buffer
* u44 net-_u12-pad3_ net-_u22-pad2_ net-_u44-pad3_ d_and
* u22 net-_u13-pad3_ net-_u22-pad2_ d_inverter
* u32 net-_u12-pad3_ net-_u18-pad3_ net-_u32-pad3_ d_and
* u30 net-_u20-pad3_ net-_u12-pad3_ net-_u30-pad3_ d_and
* u31 net-_u18-pad3_ net-_u15-pad3_ net-_u31-pad3_ d_and
* u33 net-_u15-pad3_ net-_u19-pad3_ net-_u33-pad3_ d_and
* u70 net-_u65-pad3_ net-_u70-pad2_ d_inverter
* u69 net-_u46-pad3_ net-_u62-pad3_ net-_u69-pad3_ d_xor
* u66 net-_u63-pad3_ net-_u66-pad2_ d_inverter
* u67 net-_u44-pad3_ net-_u66-pad2_ net-_u67-pad3_ d_xor
* u74 net-_u45-pad3_ net-_u70-pad2_ net-_u73-pad3_ d_xor
* u73 net-_u71-pad2_ net-_u67-pad3_ net-_u73-pad3_ net-_u69-pad3_ c4 e4 e3 e2 dac_bridge_4
* u77 e3 plot_v1
* u76 e2 plot_v1
* u58 net-_u50-pad3_ net-_u17-pad2_ net-_u58-pad3_ d_and
* u60 net-_u48-pad3_ net-_u49-pad3_ net-_u60-pad3_ d_or
* u59 net-_u27-pad2_ net-_u28-pad3_ net-_u59-pad3_ d_or
* u64 net-_u59-pad3_ net-_u60-pad3_ net-_u64-pad3_ d_or
* u68 net-_u64-pad3_ net-_u58-pad3_ net-_u68-pad3_ d_or
* u71 net-_u68-pad3_ net-_u71-pad2_ d_inverter
* u72 c4 plot_v1
* u75 e4 plot_v1
* u55 net-_u20-pad3_ net-_u55-pad2_ d_buffer
* u56 net-_u40-pad2_ net-_u34-pad3_ net-_u56-pad3_ d_or
* u57 net-_u52-pad3_ net-_u51-pad3_ net-_u57-pad3_ d_or
* u61 net-_u38-pad3_ net-_u53-pad3_ net-_u61-pad3_ d_or
* u65 net-_u41-pad2_ net-_u61-pad3_ net-_u65-pad3_ d_or
* u62 net-_u55-pad2_ net-_u42-pad3_ net-_u62-pad3_ d_nor
* u63 net-_u56-pad3_ net-_u57-pad3_ net-_u63-pad3_ d_or
* u29 net-_u16-pad3_ net-_u12-pad3_ net-_u29-pad3_ d_and
* u28 net-_u18-pad3_ net-_u12-pad3_ net-_u28-pad3_ d_and
* u27 net-_u13-pad3_ net-_u27-pad2_ d_buffer
* u18 net-_u14-pad1_ net-_u14-pad2_ net-_u18-pad3_ d_nor
* u14 net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ d_nand
* u15 net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_nand
* u16 net-_u15-pad1_ net-_u15-pad2_ net-_u16-pad3_ d_nor
* u19 net-_u19-pad1_ net-_u19-pad2_ net-_u19-pad3_ d_nand
* u11 b4 plot_v1
v8 a4 gnd pulse(0 5 0 1n 1n 128m 256m)
v9 b4 gnd pulse(0 5 0 1n 1n 1m 2m)
* u13 net-_u12-pad1_ net-_u12-pad2_ net-_u13-pad3_ d_nor
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_nand
* u4 b4 a4 b3 a3 b2 a2 b1 a1 net-_u12-pad1_ net-_u12-pad2_ net-_u14-pad1_ net-_u14-pad2_ net-_u15-pad1_ net-_u15-pad2_ net-_u19-pad1_ net-_u19-pad2_ adc_bridge_8
* u17 net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u20 net-_u19-pad1_ net-_u19-pad2_ net-_u20-pad3_ d_nor
* u6 c0 net-_u17-pad1_ adc_bridge_1
v4 c0 gnd pulse(0 5 0 1n 1n 256m 512m)
* u1 c0 plot_v1
* u9 b3 plot_v1
v2 b2 gnd pulse(0 5 0 1n 1n 16m 32m)
* u7 a3 plot_v1
* u3 b2 plot_v1
* u10 a4 plot_v1
v7 b3 gnd pulse(0 5 0 1n 1n 64m 128m)
v5 a3 gnd pulse(0 5 0 1n 1n 32m 64m)
* u2 a2 plot_v1
v3 b1 gnd pulse(0 5 0 1n 1n 4m 8m)
v1 a2 gnd pulse(0 5 0 1n 1n 8m 16m)
v6 a1 gnd pulse(0 5 0 1n 1n 2m 4m)
* u5 b1 plot_v1
* u8 a1 plot_v1
a1 [net-_u20-pad3_ net-_u15-pad3_ ] net-_u38-pad3_ u38
a2 net-_u16-pad3_ net-_u41-pad2_ u41
a3 net-_u18-pad3_ net-_u23-pad2_ u23
a4 [net-_u19-pad3_ net-_u17-pad2_ ] net-_u37-pad3_ u37
a5 [net-_u36-pad3_ net-_u37-pad3_ ] net-_u51-pad3_ u51
a6 [net-_u14-pad3_ net-_u23-pad2_ ] net-_u45-pad3_ u45
a7 [net-_u18-pad3_ net-_u15-pad3_ ] net-_u36-pad3_ u36
a8 [net-_u35-pad3_ net-_u19-pad3_ ] net-_u52-pad3_ u52
a9 [net-_u20-pad3_ net-_u18-pad3_ ] net-_u35-pad3_ u35
a10 net-_u16-pad3_ net-_u24-pad2_ u24
a11 [net-_u19-pad3_ net-_u17-pad2_ ] net-_u42-pad3_ u42
a12 [net-_u15-pad3_ net-_u19-pad3_ ] net-_u39-pad3_ u39
a13 net-_u17-pad2_ net-_u26-pad2_ u26
a14 net-_u20-pad3_ net-_u25-pad2_ u25
a15 [net-_u19-pad3_ net-_u25-pad2_ ] net-_u47-pad3_ u47
a16 [net-_u43-pad1_ ] [e1 ] u43
a17 [net-_u47-pad3_ net-_u26-pad2_ ] net-_u43-pad1_ u54
a18 [net-_u15-pad3_ net-_u24-pad2_ ] net-_u46-pad3_ u46
a19 [net-_u39-pad3_ net-_u17-pad2_ ] net-_u53-pad3_ u53
a20 [net-_u30-pad3_ net-_u31-pad3_ ] net-_u49-pad3_ u49
a21 [net-_u29-pad3_ net-_u18-pad3_ ] net-_u48-pad3_ u48
a22 [net-_u32-pad3_ net-_u33-pad3_ ] net-_u50-pad3_ u50
a23 [net-_u16-pad3_ net-_u18-pad3_ ] net-_u34-pad3_ u34
a24 net-_u18-pad3_ net-_u40-pad2_ u40
a25 [net-_u12-pad3_ net-_u22-pad2_ ] net-_u44-pad3_ u44
a26 net-_u13-pad3_ net-_u22-pad2_ u22
a27 [net-_u12-pad3_ net-_u18-pad3_ ] net-_u32-pad3_ u32
a28 [net-_u20-pad3_ net-_u12-pad3_ ] net-_u30-pad3_ u30
a29 [net-_u18-pad3_ net-_u15-pad3_ ] net-_u31-pad3_ u31
a30 [net-_u15-pad3_ net-_u19-pad3_ ] net-_u33-pad3_ u33
a31 net-_u65-pad3_ net-_u70-pad2_ u70
a32 [net-_u46-pad3_ net-_u62-pad3_ ] net-_u69-pad3_ u69
a33 net-_u63-pad3_ net-_u66-pad2_ u66
a34 [net-_u44-pad3_ net-_u66-pad2_ ] net-_u67-pad3_ u67
a35 [net-_u45-pad3_ net-_u70-pad2_ ] net-_u73-pad3_ u74
a36 [net-_u71-pad2_ net-_u67-pad3_ net-_u73-pad3_ net-_u69-pad3_ ] [c4 e4 e3 e2 ] u73
a37 [net-_u50-pad3_ net-_u17-pad2_ ] net-_u58-pad3_ u58
a38 [net-_u48-pad3_ net-_u49-pad3_ ] net-_u60-pad3_ u60
a39 [net-_u27-pad2_ net-_u28-pad3_ ] net-_u59-pad3_ u59
a40 [net-_u59-pad3_ net-_u60-pad3_ ] net-_u64-pad3_ u64
a41 [net-_u64-pad3_ net-_u58-pad3_ ] net-_u68-pad3_ u68
a42 net-_u68-pad3_ net-_u71-pad2_ u71
a43 net-_u20-pad3_ net-_u55-pad2_ u55
a44 [net-_u40-pad2_ net-_u34-pad3_ ] net-_u56-pad3_ u56
a45 [net-_u52-pad3_ net-_u51-pad3_ ] net-_u57-pad3_ u57
a46 [net-_u38-pad3_ net-_u53-pad3_ ] net-_u61-pad3_ u61
a47 [net-_u41-pad2_ net-_u61-pad3_ ] net-_u65-pad3_ u65
a48 [net-_u55-pad2_ net-_u42-pad3_ ] net-_u62-pad3_ u62
a49 [net-_u56-pad3_ net-_u57-pad3_ ] net-_u63-pad3_ u63
a50 [net-_u16-pad3_ net-_u12-pad3_ ] net-_u29-pad3_ u29
a51 [net-_u18-pad3_ net-_u12-pad3_ ] net-_u28-pad3_ u28
a52 net-_u13-pad3_ net-_u27-pad2_ u27
a53 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u18-pad3_ u18
a54 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u14-pad3_ u14
a55 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a56 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u16-pad3_ u16
a57 [net-_u19-pad1_ net-_u19-pad2_ ] net-_u19-pad3_ u19
a58 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u13-pad3_ u13
a59 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a60 [b4 a4 b3 a3 b2 a2 b1 a1 ] [net-_u12-pad1_ net-_u12-pad2_ net-_u14-pad1_ net-_u14-pad2_ net-_u15-pad1_ net-_u15-pad2_ net-_u19-pad1_ net-_u19-pad2_ ] u4
a61 net-_u17-pad1_ net-_u17-pad2_ u17
a62 [net-_u19-pad1_ net-_u19-pad2_ ] net-_u20-pad3_ u20
a63 [c0 ] [net-_u17-pad1_ ] u6
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u41 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u51 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u52 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u47 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u43 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u54 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u46 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u53 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u49 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u48 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u50 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u40 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u70 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u69 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u66 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u67 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u74 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u73 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u58 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u60 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u59 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u64 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u68 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u71 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u55 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u56 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u57 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u61 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u65 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u62 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u63 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u27 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u18 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u14 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u15 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u16 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u19 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u13 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_8, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u20 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-03 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(e1)
plot v(e3)
plot v(e2)
plot v(c4)
plot v(e4)
plot v(b4)
plot v(c0)
plot v(b3)
plot v(a3)
plot v(b2)
plot v(a4)
plot v(a2)
plot v(b1)
plot v(a1)
.endc
.end
