.title kicad schematic

.include D.lib
.include PNP.lib
.include NPN.lib
* u4 beforec4 plot_v1
c4 beforec4 output 220u
* u3 output plot_v1
r10 output vs 4k
c6 beforec4 net-_c6-pad2_ 330p
q18 vs net-_q17-pad3_ beforec4 Q2N2222
q16 net-_d3-pad1_ net-_q12-pad2_ output Q2N2907A
d2 net-_d1-pad2_ net-_d2-pad2_ 1N4148
r7 beforec4 net-_q10-pad1_ 6k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r8 beforec4 net-_q17-pad3_ 2k
q17 output net-_d1-pad1_ net-_q17-pad3_ Q2N2222
d4 net-_d3-pad2_ beforec4 1N4148
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
* u2 vs plot_v1
v2 vs gnd  dc 9
c5 vs gnd 0.1u
c2 gnd vs 100u
q13 net-_q13-pad1_ net-_d2-pad2_ net-_q13-pad3_ Q2N2907A
q14 vs net-_d3-pad1_ net-_q13-pad3_ Q2N2222
q11 net-_d2-pad2_ net-_c6-pad2_ gnd Q2N2222
r9 net-_c3-pad1_ beforec4 1k
c3 net-_c3-pad1_ gnd 0.22u
q15 beforec4 net-_q13-pad1_ gnd Q2N2222
c7 net-_c7-pad1_ vs 47u
r5 gnd net-_q10-pad2_ 2k
q8 net-_q7-pad2_ net-_q10-pad2_ gnd Q2N2222
q3 net-_c6-pad2_ net-_q3-pad2_ gnd Q2N2222
q5 net-_q3-pad2_ net-_q3-pad2_ gnd Q2N2222
q7 net-_q12-pad2_ net-_q7-pad2_ net-_q10-pad2_ Q2N2222
r1 gnd input 10k
q10 net-_q10-pad1_ net-_q10-pad2_ gnd Q2N2222
q12 net-_d1-pad1_ net-_q12-pad2_ output Q2N2907A
r6 net-_c1-pad2_ net-_q10-pad1_ 120
c1 gnd net-_c1-pad2_ 100u
q1 gnd net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
* u1 input plot_v1
r2 input net-_q1-pad2_ 2k
q4 net-_q2-pad3_ net-_q12-pad2_ output Q2N2907A
q6 net-_q3-pad2_ net-_q10-pad1_ net-_q2-pad3_ Q2N2907A
q2 net-_c6-pad2_ net-_q1-pad3_ net-_q2-pad3_ Q2N2907A
v1 gnd input sine(0 0.05 1000 0 0)
r4 net-_q7-pad2_ net-_c7-pad1_ 6k
r3 net-_c7-pad1_ vs 5.9k
q9 net-_q12-pad2_ net-_q12-pad2_ output Q2N2907A
.tran 100e-06 15e-03 10e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(beforec4)
plot v(output)
plot v(vs)
plot v(input)
.endc
.end
